### PR TITLE
feat(Wikipedia): Add Buchi's Problem

### LINKED ISSUE #2210: Büchi's Problem: Bounded Büchi Sequences
### What is the conjecture

 Does there exist a positive integer $M$ such that for all integers $x$ and $a$, the quantity $(x + n)^2 + a$ cannot be a perfect square for more than $M$ consecutive values of $n$, unless $a = 0$?

Equivalently: Given a sequence of perfect squares whose second difference is constant, is there a bound (depending on the constant) on the length of such sequences unless they form a trivial family of the form $(x + i)^2$ for consecutive integers?

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Büchi%27s_problem, https://arxiv.org/html/2412.16740, https://link.springer.com/article/10.1007/s10958-010-0181-x, https://academic.oup.com/imrn/article-abstract/2015/11/3263/2877192

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-08)

Building blocks (1-3; from search results):
- `Nat.sqrt` and perfect square membership in Mathlib
- Integer sequences and consecutive value properties
- `Finset` operations for reasoning about finite ranges of consecutive integers

Missing pieces (exactly 2; unclear/absent from search results):
- Formalization of "Büchi sequence" or "non-trivial Büchi sequence" as a specialized mathematical object
- Automated or semi-automated decision procedures for bounded search over small cases (though `decide` may suffice for specific instances)

Rating justification (1-2 sentences): The basic mathematical objects (integers, perfect squares, consecutive sequences) are well-established in Mathlib. The conjecture itself requires only elementary definitions around sequences satisfying constant second differences, making the statement straightforward to formalize, though finding or constructing examples may require computational resources.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by aditya-ramabadran**
# Description
Does there exist a positive integer $M$ such that for all integers $x$ and $a$, the quantity $( x + n )^2 + a$ cannot be a perfect square for more than $M$ consecutive values of $n$, unless $a=0$?

This is my first commit so please review and let me know if I did anything wrong :)
- Closes google-deepmind#2210

# Testing
- Compiles successfully
```shell
$ lake build FormalConjectures/Wikipedia/Buchi.lean
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/Wikipedia/Buchi.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+There exists a positive integer M such that, for all integers x and a,
+if $(x+n)^2 + a$ is a square for M consecutive values of n, then a = 0.
+-/
+@[category research open, AMS 11]
+theorem buchi_problem :
+    answer(sorry) ↔
+      ∃ M : ℕ, 1 ≤ M ∧ ∀ x a : ℤ,
+        (∀ n ∈ Finset.range M, IsSquare ((x + (n : ℤ)) * (x + (n : ℤ)) + a)) →
+        a = 0 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Buchi.lean:41]:
```suggestion
/-- `IsBuchi M` asserts that whenever `M` consecutive values `(x + n)² + a` (for
`n = 0, …, M - 1`) are all perfect squares, then `a` must be `0`. -/
def IsBuchi (M : ℕ) : Prop :=
  ∀ x a : ℤ, (∀ n ∈ Finset.range M, IsSquare ((x + (n : ℤ)) ^ 2 + a)) → a = 0

/--
**Büchi's problem**
There exists a positive integer $M$ such that, for all integers $x$ and $a$,
if $(x+n)^2 + a$ is a square for $M$ consecutive values of $n$, then $a = 0$.
-/
@[category research open, AMS 11]
theorem buchi_problem :
    answer(sorry) ↔ ∃ M : ℕ, 1 ≤ M ∧ IsBuchi M := by
  sorry


/--
**Büchi's problem (first open case, $M = 5$)**:
For all integers $x$ and $a$, if $(x+n)^2 + a$ is a perfect square for $n = 0, 1, 2, 3, 4$,
then $a = 0$.

Non-trivial sequences of length 3 and 4 are known to exist, so $M = 5$ is the first open case.
-/
@[category research open, AMS 11]
theorem buchi_problem_M5 :
    ∀ x a : ℤ,
      (∀ n ∈ Finset.range 5, IsSquare ((x + (n : ℤ)) ^ 2 + a)) →
      a = 0 := by
  sorry

```

A few things: 
 - I would write `(x + (n : ℤ)) * (x + (n : ℤ))` as `(x + (n : ℤ))^2`
 - define a Prop for the Buchi property for m, because it would be nice as test statements to get the first few cases
 - let's add the cases M=0, ..., 4
 - let's add a special statement for the first open case. 
 - more latex in docstrings.

**Review by mo271 — COMMENTED** [review]
Thanks!
The statement seems mathematically correct, but I suggest to add a little more content..

**Comment by aditya-ramabadran** [comment]
Thanks! I committed the fixes @mo271. Out of curiosity, what is the convention / guideline for when to use backticks and when to use LaTeX in the comments?

File: FormalConjectures/Wikipedia/Buchi.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+For all integers $x$ and $a$, if $(x+n)^2 + a$ is a perfect square for $n = 0, 1, 2, 3, 4$,
+then $a = 0$.
+
+Non-trivial sequences of length 3 and 4 are known to exist, so $M = 5$ is the first open case.
+-/
+@[category research open, AMS 11]
+theorem buchi_problem_M5 :
+    ∀ x a : ℤ,
+      (∀ n ∈ Finset.range 5, IsSquare ((x + (n : ℤ)) ^ 2 + a)) →
+      a = 0 := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Buchi.lean]:
```suggestion
theorem buchi_problem_M5 : IsBuchi 5 := by
```

File: FormalConjectures/Wikipedia/Buchi.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Buchi.lean:54]:
```suggestion

/-- The case $M = 0$ fails: the hypothesis is vacuous, so $a = 0$ cannot be concluded. -/
@[category test, AMS 11]
theorem buchi_false_M0 : ¬ IsBuchi 0 := by
  simp only [IsBuchi, Finset.range_zero, not_forall, exists_prop]
  exact ⟨0, 1, by norm_num⟩

/-- The case $M = 1$ fails: $0^2 + 4 = 4 = 2^2$ is a square but $a = 4 \neq 0$. -/
@[category test, AMS 11]
theorem buchi_false_M1 : ¬ IsBuchi 1 := by
  simp only [IsBuchi, not_forall]
  refine ⟨0, 4, ?_, by norm_num⟩
  intro n hn
  simp only [Finset.range_one, Finset.mem_singleton] at hn; subst hn
  exact ⟨2, by norm_num⟩

/-- The case $M = 2$ fails: $(7+n)^2 - 48$ is a perfect square for $n = 0, 1$
($1^2$ and $4^2$), but $a = -48 \neq 0$. -/
@[category test, AMS 11]
theorem buchi_false_M2 : ¬ IsBuchi 2 := by
  simp only [IsBuchi, not_forall]
  refine ⟨7, -48, ?_, by norm_num⟩
  intro n hn
  simp [Finset.mem_range] at hn
  interval_cases n
  · exact ⟨1, by norm_num⟩
  · exact ⟨4, by norm_num⟩

/-- The case $M = 3$ fails: $(24+n)^2 - 576$ is a perfect square for $n = 0, 1, 2$
($0^2$, $7^2$, and $10^2$), but $a = -576 \neq 0$. -/
@[category test, AMS 11]
theorem buchi_false_M3 : ¬ IsBuchi 3 := by
  simp only [IsBuchi, not_forall]
  refine ⟨24, -576, ?_, by norm_num⟩
  intro n hn
  simp [Finset.mem_range] at hn
  interval_cases n
  · exact ⟨0, by norm_num⟩
  · exact ⟨7, by norm_num⟩
  · exact ⟨10, by norm_num⟩

/-- The case $M = 4$ fails: $(246+n)^2 - 60480$ is a perfect square for $n = 0, 1, 2, 3$
($6^2$, $23^2$, $32^2$, and $39^2$), but $a = -60480 \neq 0$.
The sequence $(6, 23, 32, 39)$ is a nontrivial Büchi sequence of length 4 (Hensley 1983). -/
@[category test, AMS 11]
theorem buchi_false_M4 : ¬ IsBuchi 4 := by
  simp only [IsBuchi, not_forall]
  refine ⟨246, -60480, ?_, by norm_num⟩
  intro n hn
  simp [Finset.mem_range] at hn
  interval_cases n
  · exact ⟨6, by norm_num⟩
  · exact ⟨23, by norm_num⟩
  · exact ⟨32, by norm_num⟩
  · exact ⟨39, by norm_num⟩
```

**Review by mo271 — COMMENTED** [review]
Let's actually add the other cases < 5 as test statements

**Comment by mo271** [comment]
> Thanks! I committed the fixes @mo271. Out of curiosity, what is the convention / guideline for when to use backticks and when to use LaTeX in the comments?

There is a little bit of tension between Mathlib using mostly backticks and us using mostly Latex. So I would go with Latex in case of doubt except for defitions which are very basic/are in ForMathlib or only concern lean internals (like when you would deine a tactic)

**Comment by aditya-ramabadran** [comment]
Thanks! That makes sense. Added your commit

**Review by mo271 — APPROVED** [review]
Thanks again!
